US07259183B2
Preparation of 5-Chloro-6-fluoro-1H-indole-7-carboxylic acid (4-cyclopropyl-benzyl)-[2-(3-trifluoromethyl-phenyl)-ethyl]-amide
To a solution of 37 mg (0.17 mmol) 5-chloro-6-fluoro-1H-indole-7-carboxylic acid and 54 mg of TBTU (0.17 mmol) in 2 ml DMF, were added 0.148 ml (0.87 mmol) of N,N-diisopropylethyl amine. After stirring for 5 min at rt, 51 mg (0.17 mmol) (4-cyclopropyl-benzyl)-[2-(3-trifluoromethyl-phenyl)-ethyl]-amine in 1 ml DMF was added. After stirring for 17 h at rt, the reaction mixture was diluted with 30 ml water and extracted with EtOAc (2×). The combined organic phases were washed with water and brine, dried with magnesium sulfate, filtered and concentrated in vacuo. The residue was purified by column chromatography (8 g silica gel; diethylether/heptane 1:1; then 8 g silicagel DCM/heptane 70:30 to 90:10) to give 43 mg white foam (48%). MS (EI) 514.1 (M)+.

reactant | 5-chloro-6-fluoro-1H-indole-7-carboxylic acid | 0.17 mmol, 37 mg | ClC=1C=C2C=CNC2=C(C1F)C(=O)O | C9H5ClFNO2
reactant | TBTU | 0.17 mmol, 54 mg | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=C2)N=N1.[B-](F)(F)(F)F
reactant | N,N-diisopropylethyl amine | 0.87 mmol, 0.148 ml | C(C)(C)N(C(C)C)CC | C8H19N
reactant | (4-cyclopropyl-benzyl)-[2-(3-trifluoromethyl-phenyl)-ethyl]-amine | 0.17 mmol, 51 mg | C1(CC1)C1=CC=C(CNCCC2=CC(=CC=C2)C(F)(F)F)C=C1 | C19H20F3N
solvent | DMF | 2 ml | CN(C)C=O | C3H7NO
solvent | DMF | 1 ml | CN(C)C=O | C3H7NO
solvent | water | 30 ml | O | H2O
product | 5-Chloro-6-fluoro-1H-indole-7-carboxylic acid (4-cyclopropyl-benzyl)-[2-(3-trifluoromethyl-phenyl)-ethyl]-amide | 43 mg, 48% | C1(CC1)C1=CC=C(CN(C(=O)C=2C(=C(C=C3C=CNC23)Cl)F)CCC2=CC(=CC=C2)C(F)(F)F)C=C1 | C28H23ClF4N2O
